US08067446B2
Under an argon atmosphere, 820 mg of 4-bromo-1-isobutoxy-2-nitrobenzene and 830 mg of bispinacolatodiboron were dissolved in toluene and the resulting solution was heated and refluxed for 15 hours in the presence of 60 mg of dichlorodi(triphenylphosphine)palladium, 50 mg of triphenylphosphine, and 350 mg of potassium acetate. After cooling to room temperature, 660 mg of methyl 5-bromothiophene-2-carboxylate, 150 mg of tetrakis(triphenylphosphine)palladium, and 7.5 ml of a 2M aqueous sodium carbonate solution were added to the solution, followed by heating at 100° C. for 6 hours. After cooling to room temperature, the solution was extracted with ethyl acetate and the resulting organic layer was dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10) to obtain 790 mg of methyl 5-(3-nitro-4-isobutoxyphenyl)thiophene-2-carboxylate. (2) Then, 570 mg of the compound was dissolved in a mixed solution of 10 ml of ethanol and 10 ml of THF, and 3 ml of a 1M aqueous sodium hydroxide solution was added thereto, followed by heating at 60° C. for 18 hours. After cooling to room temperature, the resulting solution was diluted with water and ethyl acetate and an aqueous layer was separated. The aqueous layer was neutralized with 1M hydrochloric acid and then extracted with ethyl acetate. The resulting organic layer was dried and concentrated under reduced pressure to obtain 350 mg of 5-(3-nitro-4-isobutoxyphenyl)thiophene-2-carboxylic acid.

reactant | 4-bromo-1-isobutoxy-2-nitrobenzene | 820 mg | BrC1=CC(=C(C=C1)OCC(C)C)[N+](=O)[O-] | C10H12BrNO3
reactant | potassium acetate | 350 mg | C(C)(=O)[O-].[K+]
reactant | methyl 5-bromothiophene-2-carboxylate | 660 mg | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | triphenylphosphine | 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | methyl 5-(3-nitro-4-isobutoxyphenyl)thiophene-2-carboxylate | 790 mg | [N+](=O)([O-])C=1C=C(C=CC1OCC(C)C)C1=CC=C(S1)C(=O)OC | C16H17NO5S
